US07141583B2
(5R)-3-(4-((3R)-3-(t-Butoxycarbonyl)aminopyrrolidin-1-yl)-3-fluoro-phenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-((3R)-3-(t-Butoxycarbonyl)aminopyrrolidin-1-yl)-3-fluorophenyl)-5-azidomethyl-oxazolidin-2-one (695 mg, 1.65 mM) was dissolved in dioxane (30 ml), treated with norbornadiene (760 mg, 8.25 mM) and heated under reflux for 6 hours. After removal of the solvent, the residue was dissolved in the minimum of dichloromethane and purified by chromatography on a 20 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 2.5% methanol in dichloromethane. Relevant fractions were combined and evaporated to give the desired product (544 mg).

reactant | (5R)-3-(4-((3R)-3-(t-Butoxycarbonyl)aminopyrrolidin-1-yl)-3-fluorophenyl)-5-azidomethyl-oxazolidin-2-one | 1.65 mM, 695 mg | C(C)(C)(C)OC(=O)N[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O)F | C19H25FN6O4
reactant | norbornadiene | 8.25 mM, 760 mg | C12=CC=C(CC1)C2 | C7H8
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | (5R)-3-(4-((3R)-3-(t-Butoxycarbonyl)aminopyrrolidin-1-yl)-3-fluoro-phenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 544 mg | C(C)(C)(C)OC(=O)N[C@H]1CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C21H27FN6O4
